US06140330
4-Benzyl-2-chloromethylmorpholine (15 g) and 4-(2-hydroxyethyl)piperazine (25 ml) are mixed, and the mixture is heated with stirring at 130° C. for five hours. After the reaction is complete, the mixture is extracted with chloroform, and the extract is dried over magnesium sulfate. The residue thus obtained is concentrated under reduced pressure to give 4-benzyl-2-[4-(2-hydroxyethyl)-1-piperazinyl]methylmorpholine (16 g).

reactant | 4-Benzyl-2-chloromethylmorpholine | 15 g | C(C1=CC=CC=C1)N1CC(OCC1)CCl | C12H16ClNO
reactant | 4-(2-hydroxyethyl)piperazine | 25 ml | OCCN1CCNCC1 | C6H14N2O
product | 4-benzyl-2-[4-(2-hydroxyethyl)-1-piperazinyl]methylmorpholine | 16 g | C(C1=CC=CC=C1)N1CC(OCC1)CN1CCN(CC1)CCO | C18H29N3O2
